US07723333B2
2-(4-{3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}phenyl)-N,N-dimethylacetamide
The title compound was prepared as described for Example 12 from 2-(4-hydroxyphenyl)-N,N-dimethylacetamide and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate. The reaction mixture was evaporated, purified twice by silica gel column chromatography (Horizons Biotage) using 75-85% EtOAc in petroleum ether 40-60° C. and then 50% DCM in EtOAc as eluent to give the title compound (0.072 g, 59%). 1H NMR (500 MHz CDCl3): δ 7.54-7.49 (m, 2H), 7.46-7.42 (m, 3H), 7.18 (d, 2H), 6.82 (d, 2H), 5.76 (t, 1H), 3.87 (t, 2H), 3.66 (s, 2H), 3.08 (m, 2H), 3.01 (s, 3H), 2.98 (s, 3H), 1.83 (m, 2H), 1.74 (s, 9H); 13C NMR (CDCl3): δ 171.5, 159.8, 157.4, 135.3, 131.8, 130.1, 129.7, 128.8, 127.8, 125.3, 114.8, 107.1, 66.1, 61.7, 42.5, 40.3, 37.9, 35.9, 28.9, 27.8; Mass Spectrum M+H+ 500.

reactant | 2-(4-hydroxyphenyl)-N,N-dimethylacetamide | OC1=CC=C(C=C1)CC(=O)N(C)C | C10H13NO2
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | 2-(4-{3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}phenyl)-N,N-dimethylacetamide | 0.072 g, 59% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C=C1)CC(=O)N(C)C)C1=CC=CC=C1)(=O)=O | C26H33N3O5S
